US05034395
To 200 ml of methanol solution containing 24 g of cyclopropyl (4-methylthiophenyl)ketone was added slowly 9.4 g of sodium borohydride under an ice-cooled condition, the reaction mixture was stirred for 2 hours. Then an adequate amount of acetone was added to the reaction mixture and concentrated under a reduced pressure. To the residue thus obtained was added chloroform, and the chloroform solution was washed with water, dried with anhydrous sodium sulfate, and the solvent was removed by evaporation to yield 18 g of 1-(cyclopropyl, hydroxylmethyl)-4-methylthiobenzene as in the form of colorless oily substance.

reactant | methanol | 200 ml | CO | CH4O
reactant | cyclopropyl (4-methylthiophenyl)ketone | 24 g | C1(CC1)C(=O)C1=CC=C(C=C1)SC | C11H12OS
reactant | sodium borohydride | 9.4 g | [BH4-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(cyclopropyl, hydroxylmethyl)-4-methylthiobenzene | 18 g | C1(CC1)C(C1=CC=C(C=C1)SC)O | C11H14OS
